** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment3/assign1c.sch
**.subckt assign1c
vin inp GND PULSE(0 {VDDVal} 0 5ps 5ps 250ps 600ps)
x1 net1 inp net2 ignd
x2 out22 net1 inverter
Vmeas net2 GND 0
.save i(vmeas)
vdd VDD GND {VDDval}
**** begin user architecture code


.param VDDVal = 1.8
.param width_p = 0.84

.save all

.control
let Nsim = 9
let edpvec = vector(Nsim)
let edpvec_ana = vector(Nsim)
let vddvec = vector(Nsim)
let index = 0

* Analytical Constants from your notes
let Ctot = 3.8e-15
let Vtn = 0.7
let Vtp = 0.7
let EcnLn = 0.96
let EcpLp = 1.0
let Kn_WL = 5.838e-4
let Kp_WL = 4.112e-4

while index < Nsim
  let vddv = 1.0 + (index * 0.1)
  let vby2 = vddv / 2

  alterparam VDDVal = $&vddv
  reset
  tran 1p 600p

  * 1. Simulated Delay & Energy
  meas tran thl trig v(inp) val=$&vby2 rise=1 targ v(net1) val=$&vby2 fall=1
  meas tran tlh trig v(inp) val=$&vby2 fall=1 targ v(net1) val=$&vby2 rise=1
  let tp_sim = (thl + tlh) / 2

  * Integrate current to get Charge (Q), then Energy = Q * VDD
  meas tran iinteg integ i(vmeas)
  let edpvec[index] = abs(iinteg) * vddv * tp_sim

  * 2. Analytical Delay & Energy
  let num_hl = Ctot * vby2 * (EcnLn + vddv - Vtn)
  let den_hl = Kn_WL * EcnLn * (vddv - Vtn) * (vddv - Vtn)
  let tphl_ana = num_hl / den_hl

  let num_lh = Ctot * vby2 * (EcpLp + vddv - Vtp)
  let den_lh = Kp_WL * EcpLp * (vddv - Vtp) * (vddv - Vtp)
  let tplh_ana = num_lh / den_lh

  let tp_ana = (tphl_ana + tplh_ana) / 2

  * Analytical EDP = (C * VDD^2) * tp
  let edpvec_ana[index] = (Ctot * vddv * vddv) * tp_ana

  let vddvec[index] = vddv
  let index = index + 1
end

* Plot Simulated vs Analytical EDP
plot edpvec edpvec_ana vs vddvec
.endc


.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends

* expanding   symbol:  ignd.sym # of pins=3
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment3/ignd.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment3/ignd.sch
.subckt ignd y a to_gnd
*.ipin a
*.opin y
*.opin to_gnd
XM1 y a to_gnd GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 y a VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W={width_p} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends


* expanding   symbol:  inverter.sym # of pins=2
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment3/inverter.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment3/inverter.sch
.subckt inverter y a
*.ipin a
*.opin y
XM1 y a GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 y a VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W={width_p} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
