* NGSPICE file created from inv.ext - technology: sky130A

.subckt inv DVDD in out DGND
X0 out.t1 in.t0 DVDD.t1 DVDD.t0 sky130_fd_pr__pfet_01v8 ad=0.252 pd=2.28 as=0.252 ps=2.28 w=0.84 l=0.15
X1 out.t0 in.t1 DGND.t1 DGND.t0 sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
R0 in.n0 in.t0 298.841
R1 in in.n0 288.601
R2 in.n0 in.t1 142.994
R3 DVDD DVDD.t0 1033.4
R4 DVDD DVDD.t1 388.978
R5 out out.t1 418.108
R6 out out.t0 269.269
R7 DGND DGND.t0 5031.67
R8 DGND DGND.t1 267.276
C0 out in 0.030632f
C1 out DVDD 0.102413f
C2 in DVDD 0.112359f
C3 out DGND 0.119774f
C4 in DGND 0.268142f
C5 DVDD DGND 0.881849f
.ends

