** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment4/inv_tb.sch
.subckt inv_tb DVDD out in DGND vout1
*.PININFO DGND:B in:I out:O DVDD:B vout1:O
x1 DVDD in vout1 DGND inv
x2 DVDD vout1 out DGND inv
.ends

* expanding   symbol:  inv.sym # of pins=8
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment4/inv.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment4/inv.sch
.subckt inv DVDD in out DGND
*.PININFO in:I out:O DVDD:B DGND:B
XM3 out in DVDD DVDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1
XM2 out in DGND DGND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1
.ends

