* NGSPICE file created from inv_tb.ext - technology: sky130A

.subckt inv_tb DVDD out in DGND vout1
X0 vout1.t0 in.t0 DVDD.t1 DVDD.t0 sky130_fd_pr__pfet_01v8 ad=0.252 pd=2.28 as=0.252 ps=2.28 w=0.84 l=0.15
X1 out.t0 vout1.t2 DVDD.t3 DVDD.t2 sky130_fd_pr__pfet_01v8 ad=0.252 pd=2.28 as=0.252 ps=2.28 w=0.84 l=0.15
X2 vout1.t1 in.t1 DGND.t3 DGND.t2 sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X3 out.t1 vout1.t3 DGND.t1 DGND.t0 sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
R0 in.n0 in.t0 298.841
R1 in in.n0 285.467
R2 in.n0 in.t1 144.601
R3 DVDD.n0 DVDD.t2 1029.84
R4 DVDD.t2 DVDD.t0 809.26
R5 DVDD DVDD.t1 389.012
R6 DVDD.n0 DVDD.t3 388.762
R7 DVDD DVDD.n0 0.109875
R8 vout1.n1 vout1.t0 414.721
R9 vout1 vout1.n0 309.805
R10 vout1.n0 vout1.t2 302.053
R11 vout1.n1 vout1.t1 260.235
R12 vout1.n0 vout1.t3 141.387
R13 vout1 vout1.n1 38.777
R14 out out.t0 417.733
R15 out out.t1 270.022
R16 DGND.n0 DGND.t0 5031.87
R17 DGND.t0 DGND.t2 3930.1
R18 DGND.n0 DGND.t1 271.079
R19 DGND DGND.t3 269.514
R20 DGND DGND.n0 0.159354
C0 out DVDD 0.104524f
C1 in vout1 0.052599f
C2 in DVDD 0.107588f
C3 DVDD vout1 0.226499f
C4 out vout1 0.044074f
C5 out DGND 0.101916f
C6 vout1 DGND 0.361116f
C7 in DGND 0.247639f
C8 DVDD DGND 1.25652f
.ends

