** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment5/nand_tb.sch
.subckt nand_tb DVDD A out B B1 DGND
*.PININFO A:I out:O DGND:B DVDD:B B:I B1:I
x1 DVDD A out B DGND nand
x2 DVDD out net1 B1 DGND nand
.ends

* expanding   symbol:  nand.sym # of pins=5
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment5/nand.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment5/nand.sch
.subckt nand VDD A out B GND
*.PININFO A:I out:O VDD:B GND:B B:I
XM1 out A net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1.68 nf=4
XM2 out A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=4
XM3 net1 B GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1.68 nf=4
XM4 out B VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=4
.ends

