** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment4/ro.sch
**.subckt ro
x1 VDD out_pin net1 GND inv
x3 VDD net1 net2 GND inv
x4 VDD net2 net3 GND inv
x6 VDD net3 net4 GND inv
x7 VDD net4 net5 GND inv
x8 VDD net5 net6 GND inv
x9 VDD net6 out_pin GND inv
V1 VDD GND {vdd_val}
**** begin user architecture code
.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt



.param vdd_val = 1.8

.ic v(out_pin)=0

.control

let Nsim = 9
let periodvec = vector(Nsim)
let freqvec = vector(Nsim)
let vddvec = vector(Nsim)
let index = 0

while index < Nsim

  let vddv = 1.0 + (index * 0.1)
  alterparam vdd_val = $&vddv

  reset
  * Give it plenty of time (40ns) so 1.0V and 1.1V fully settle

  * Give it a massive window (100ns) so 1.0V can easily hit 5 edges
  tran 1p 100n uic

  meas tran t1 WHEN v(out_pin)=0.4 rise=4
  meas tran t2 WHEN v(out_pin)=0.4 rise=5

  let periodvec[index] = t2 - t1
  let freqvec[index] = 1 / (t2 - t1)
  let vddvec[index] = vddv
  let index = index + 1

end

plot freqvec vs vddvec
plot periodvec vs vddvec


.endc


**** end user architecture code
**.ends

* expanding   symbol:  inv.sym # of pins=8
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment4/inv.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment4/inv.sch
.subckt inv DVDD in out DGND
*.ipin in
*.opin out
*.iopin DVDD
*.iopin DGND
XM3 out in DVDD DVDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 out in DGND DGND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
